US05859044
2b. 5-Bromo-1-(4-nitro-benzyl)-1H-indole-2-carboxylic Acid Benzyl Ester
To a mixture of 5-bromo-1-(4-nitro-benzyl)-1-H-indole-2-carboxylic acid (1.66 g, 4.43 mmol) and sodium bicarbonate (0.93 g, 11.1 mmol) in dry dimethylformamide at room temperature under nitrogen was added benzyl bromide (2.275 g, 1.58 ml, 13.3 mmol). The reaction mixture was warmed to about 60° C. for about 16 hours and then the mixture was cooled, diluted with ethyl acetate, washed with dilute sodium bicarbonate solution and brine, dried over sodium sulfate, and concentrated in vacuo. The resulting residue was flash chromatographed on silica (60 g) with 20% ethyl acetate/hexanes. The purified product was taken up in hot toluene/heptane and allowed to crystallize slowly. The light brown solid was washed with heptane and dried in air, then under vacuum to give the title compound (1.73 g).

reactant | 5-bromo-1-(4-nitro-benzyl)-1-H-indole-2-carboxylic acid | 4.43 mmol, 1.66 g | BrC=1C=C2C=C(N(C2=CC1)CC1=CC=C(C=C1)[N+](=O)[O-])C(=O)O | C16H11BrN2O4
reactant | sodium bicarbonate | 11.1 mmol, 0.93 g | C([O-])(O)=O.[Na+]
reactant | benzyl bromide | 13.3 mmol, 1.58 ml, 2.275 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Bromo-1-(4-nitro-benzyl)-1H-indole-2-carboxylic Acid Benzyl Ester | 1.73 g | C(C1=CC=CC=C1)OC(=O)C=1N(C2=CC=C(C=C2C1)Br)CC1=CC=C(C=C1)[N+](=O)[O-] | C23H17BrN2O4
